US08461181B2
(11) Chloroacetanilide Herbicidal Compounds
acetochlor, alachlor, butachlor, dimethenamid, propachlor, metazachlor, metolachlor, pretilachlor, thenylchlor, and pethoxamid.

reactant | acetochlor | CCC=1C=CC=C(C1N(COCC)C(=O)CCl)C | C14H20ClNO2
reactant | alachlor | CCC=1C=CC=C(C1N(COC)C(=O)CCl)CC | C14H20ClNO2
reactant | butachlor | CCCCOCN(C=1C(=CC=CC1CC)CC)C(=O)CCl | C17H26ClNO2
reactant | dimethenamid | CC1=CSC(=C1N(C(C)COC)C(=O)CCl)C | C12H18ClNO2S
reactant | propachlor | CC(C)N(C=1C=CC=CC1)C(=O)CCl | C11H14ClNO
reactant | metazachlor | CC=1C=CC=C(C1N(CN2C=CC=N2)C(=O)CCl)C | C14H16ClN3O
reactant | metolachlor | CCC1=CC=CC(=C1N(C(C)COC)C(=O)CCl)C | C15H22ClNO2
reactant | pretilachlor | CCCOCCN(C=1C(=CC=CC1CC)CC)C(=O)CCl | C17H26ClNO2
reactant | thenylchlor | CC1=C(C(=CC=C1)C)N(CC2=C(C=CS2)OC)C(=O)CCl | C16H18ClNO2S
reactant | pethoxamid | CCOCCN(C(=O)CCl)C(=C(C)C)C=1C=CC=CC1 | C16H22ClNO2
product | Chloroacetanilide | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
